US08202858B2
N-[4-(6-Chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-3-methyl-benzyl]-3-(1-propionyl-piperidin-4-yl)-propionamide
A solution of propionyl chloride (0.46 mg, 0.005 mmol) in dichloromethane (0.05 ml) was added to a solution of N-[4-(6-chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-3-methyl-benzyl]-3-piperidin-4-yl-propionamide hydrochloride (Compound number 1108) (2.97 mg, 0.005 mmol) in dichloromethane (0.05 ml) and triethylamine (0.0035 ml). The mixture was stirred at room temperature for 1 h then solvents were removed in vacuo to yield the title compound. (ESI)+: [M+H]+=577.4

reactant | propionyl chloride | 0.005 mmol, 0.46 mg | C(CC)(=O)Cl | C3H5ClO
reactant | N-[4-(6-chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-3-methyl-benzyl]-3-piperidin-4-yl-propionamide hydrochloride | 0.005 mmol, 2.97 mg | Cl.ClC=1C=CC2=C(NC=3N(N=CC3CN2C(=O)C2=C(C=C(CNC(CCC3CCNCC3)=O)C=C2)C)C)C1
solvent | dichloromethane | 0.05 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.05 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.0035 ml | C(C)N(CC)CC | C6H15N
product | N-[4-(6-Chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-3-methyl-benzyl]-3-(1-propionyl-piperidin-4-yl)-propionamide | ClC=1C=CC2=C(NC=3N(N=CC3CN2C(=O)C2=C(C=C(CNC(CCC3CCN(CC3)C(CC)=O)=O)C=C2)C)C)C1 | C31H37ClN6O3
